US07514419B2
To a solution of 4-bromo-3,5-dimethyl-triisopropylsilanoxybenzene (1.29 g, 3.6 mmol, Chiellini et al., Bioorg. Med. Chem. Lett. 10:2607 (2000)) in THF at −78° C. was added n-butyllithium (1.58 mL, 3.96 mmol, 2.5 M in THF). After 30 min, a solution of 4-fluoro-3-isopropenylbenzaldehyde (500 mg, 3.0 mmol) in THF was added. The reaction mixture was stirred at −78° C. for 1 h, allowed to warm to room temperature, diluted with EtOAc and quenched with water. The organic layer was dried over MgSO4, filtered and concentrated to afford crude 1-(2,6-dimethyl-4-triisopropylsilanyloxyphenyl)-1-(4′-fluoro-3′-isopropenylphenyl)methanol as an oil: 1H NMR (200 MHz, CDCl3): δ 7.18 (m, 1H), 7.02 (m, 1H), 6.94 (m, 1H), 6.56 (s, 2H), 6.22 (s, 1H), 5.18 (m, 2H), 2.20 (s, 6H), 2.08 (s, 3H), 1.25 (m, 3H), 1.11 (m, 18).

reactant | 4-bromo-3,5-dimethyl-triisopropylsilanoxybenzene | 3.6 mmol, 1.29 g | BrC1=C(C=C(C=C1C)O[Si](C(C)C)(C(C)C)C(C)C)C | C17H29BrOSi
reactant | n-butyllithium | 3.96 mmol, 2.5 M, 1.58 mL | C(CCC)[Li]
reactant | 4-fluoro-3-isopropenylbenzaldehyde | 3.0 mmol, 500 mg | FC1=C(C=C(C=O)C=C1)C(=C)C | C10H9FO
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2,6-dimethyl-4-triisopropylsilanyloxyphenyl)-1-(4′-fluoro-3′-isopropenylphenyl)methanol | CC1=C(C(=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C)C(O)C1=CC(=C(C=C1)F)C(=C)C | C27H39FO2Si
